US08071592B2
7-fluoro-1-[2-(4-{[(7-oxo-1,5,6,7-tetrahydro-1,8-naphthyridin-2-yl)methyl]amino}-1-piperidinyl)ethyl]-2(1H)-quinoxalinone Fumarate
A solution of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone dihydrochloride (60 mg; 0.166 mmol) and 7-oxo-1,5,6,7-tetrahydro-[1,8]-naphthyridine-2-carboxaldehyde (for a synthesis see WO 2003/087098 Example 307(f)) (35 mg, 0.197 mmol) in MeOH (3 ml), chloroform (3 ml) and triethylamine (0.06 ml) was heated under reflux with 3A molecular sieves overnight. Chloroform (2 ml) and MeOH (2 ml) were added, the mixture was cooled and sodium triacetoxyborohydride (0.11 g; 0.52 mmol) was added, and the mixture was stirred at rt overnight. Sodium triacetoxyborohydride (0.1 μg) was added and the mixture was stirred overnight again. Aqueous sodium bicarbonate solution was added to basify and the aqueous phase was extracted several times with 10% MeOH/DCM. The organic fractions were dried and evaporated. Chromatography on silica gel, eluting with 0-20% MeOH-DCM gave the free base of the title compound (23 mg, 31%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2(1H)-quinoxalinone dihydrochloride | 0.166 mmol, 60 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=NC2=CC=C(C=C12)F)=O
reactant | 7-oxo-1,5,6,7-tetrahydro-[1,8]-naphthyridine-2-carboxaldehyde | O=C1CCC2=CC=C(NC2=N1)C=O | C9H8N2O2
reactant | sodium triacetoxyborohydride | 0.52 mmol, 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 3 ml | CO | CH4O
catalyst | Sodium triacetoxyborohydride | 0.1 μg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | 2 ml | CO | CH4O
solvent | Chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.06 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-fluoro-1-[2-(4-{[(7-oxo-1,5,6,7-tetrahydro-1,8-naphthyridin-2-yl)methyl]amino}-1-piperidinyl)ethyl]-2(1H)-quinoxalinone Fumarate | 23 mg, 31% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C2N=CC(N(C2=C1)CCN1CCC(CC1)NCC=1NC2=NC(CCC2=CC1)=O)=O | InChI=1S/C24H27FN6O2.C4H4O4/c25-17-3-5-20-21(13-17)31(23(33)15-27-20)12-11-30-9-7-18(8-10-30)26-14-19-4-1-16-2-6-22(32)29-24(16)28-19;5-3(6)1-2-4(7)8/h1,3-5,13,15,18,26H,2,6-12,14H2,(H,28,29,32);1-2H,(H,5,6)(H,7,8)/b;2-1+
